US08114873B2
3-Fluoro-5-piperidin-1-yl-N-{4-[(2-pyrrolidin-1-ylpyrimidin-4-yl)oxy]-1-naphthyl}benzamide (Compound B377).
Compound is prepared from 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide and pyrrolidine according to conditions described in general procedure C. Mp: 111-113° C.; 1H NMR (400 MHz, DMSO-d6) δ 1.58 (s, 6 H), 1.81 (bs, 4 H), 3.03-3.40 (m, 8 H), 6.15 (d, J=5.5, 1 H), 6.95 (d, 1 H), 7.15 (d, 1 H), 7.40 (d, J=8.4 Hz,1 H), 7.46 (s, 1 H), 7.50-7.60 (m, 3 H), 7.82-7.86 (m, 1 H), 7.97-7.99 (m, 1 H), 8.21-8.23 (m, 1 H), 10.43 (s, 1 H).

reactant | 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCCCC1 | C27H25FN4O4S
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 3-Fluoro-5-piperidin-1-yl-N-{4-[(2-pyrrolidin-1-ylpyrimidin-4-yl)oxy]-1-naphthyl}benzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)N2CCCC2)C=C(C1)N1CCCCC1 | C30H30FN5O2
